US07189790B2
2,6-Dichloro-4-bromoaniline (15.6 g, 64.8 mmol) was gradually added to concentrated sulfuric acid (40 ml). The mixture was then stirred at room temperature for 20 minutes. The mixture was then cooled to 0° C. To the mixture was then added gradually sodium nitrite (4.9 g, 71.22 mmol). The mixture was then stirred at a temperature of 0° C. to 5° C. for 2.5 hours. The mixture thus obtained was then added to ice-water (200 g). To the mixture was then added an aqueous solution of potassium iodide (12.9 g, 77.76 mmol) at 5° C. The mixture was then allowed to stand at 5° C. for 15 minutes and at room temperature for 1 hour. The mixture was then extracted with diethyl ether. The extract was washed with an aqueous solution of sodium thiosulfate, and then dried over magnesium sulfate. The solvent was then distilled off. The crude product thus obtained was then extracted with hexane (200 ml). The solvent was then distilled off. As a result, a crude product was obtained in an amount of 18.62 g. The crude product was then recrystallized from ethanol (75 ml). As a result, 2,6-dichloro-4-bromoiodobenzene was obtained (14.8 g; yield: 65%).

reactant | 2,6-Dichloro-4-bromoaniline | 64.8 mmol, 15.6 g | ClC1=C(N)C(=CC(=C1)Br)Cl | C6H4BrCl2N
reactant | sodium nitrite | 71.22 mmol, 4.9 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 77.76 mmol, 12.9 g | [I-].[K+]
solvent | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
product | 2,6-dichloro-4-bromoiodobenzene | yield: 65% | ClC1=C(C(=CC(=C1)Br)Cl)I | C6H2BrCl2I
